US08048887B2
3-(2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid
To a mixture of methyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoate (1 g, 2.4 mmol, 1 eq) in a 1:1 mixture of MeOH/THF at ambient temperature was added 5 eq. of NaOH and heated to 60° C. for 5 h. The mixture was cooled to ambient temperature and then in an ice-water bath, quenched slowly with 1.5 N HCl and then concentrated. The mixture with white precipitates was diluted with water and filtered to get the solid. It is further washed with water and dried in vacuum. Yield: 0.850 g (90%). This acid was also prepared by the coupling of 2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl trifluoromethanesulfonate with 4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (Cs2CO3, (Ph3)4Pd, H2O/1,4-dioxane (1:5), 90° C.) in a similar manner as described. 1H NMR (400 MHz, DMSO-d6): δ 2.32 (s, 3H), 2.82-2.83 (d, 3H, J=4.6 Hz), 7.36-7.48 (m, 6H), 7.56-7.57 (d, 1H, J=1.44 Hz), 7.75-7.77 (d, 1H, J=8.48 Hz), 7.81-8.03 (m, 2H), 8.46-8.48 (d, 1H, J=4.7 Hz), 12.92 (s, 1H). LCMS: (ES+) m/z=404.0 (M+H).

reactant | methyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoate | 2.4 mmol, 1 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)OC)C=CC2C | C25H20FNO4
reactant | NaOH | 5 eq. | [OH-].[Na+]
solvent | MeOH THF | CO.C1CCOC1
product | 3-(2-(4-Fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2C | C24H18FNO4
